US09127003B2
(R)-(3-Aminopiperidin-1-yl)(2-(1-ethyl-1H-pyrrolo[2,3-c]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone
To a solution of (R)-tert-butyl(1-(2-(1-ethyl-1H-pyrrolo[2,3-c]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate (42 mg, 0.084 mmol) in dichloromethane (DCM) (1 mL) was added TFA (0.258 mL, 3.34 mmol) and the reaction stirred at room temperature for 2 h. The reaction mixture was concentrated in vacuo to afford a yellow oil. This was dissolved in methanol and loaded onto an SCX cartridge (5 g). It was eluted with methanol (3 column volumes) and product eluted as free base with 2M ammonia in methanol. The filtrate from the ammonia fractions was concentrated in vacuo to yield the title compound as a yellow solid (34 mg).

reactant | (R)-tert-butyl(1-(2-(1-ethyl-1H-pyrrolo[2,3-c]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate | 0.084 mmol, 42 mg | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=CN=CC3)N2CC)C)C=C1)=O | C28H34N6O3
reactant | TFA | 3.34 mmol, 0.258 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | (R)-(3-Aminopiperidin-1-yl)(2-(1-ethyl-1H-pyrrolo[2,3-c]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone | 34 mg | N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=CN=CC3)N2CC)C)C=C1 | C23H26N6O
